US06939867B2
Preparation of [2-(4-Amino-phenoxy)-ethyl]-[2-(tert-butyl-dimethyl-silanyloxy)-2-pyridin-3-yl-ethyl]-carbamic acid tert-butyl ester (I-3d):
To a stirred slurry of [2-(tert-butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethyl]-[2-(4-nitro-phenoxy)-ethyl]-carbamic acid tert-butyl ester (530 mg) and 10% palladium-on-carbon (530 mg) in MeOH (20 mL) was added ammonium formate (1.2 g). After 1.5 h, the reaction mixture was filtered through Celite® washing with methanol and concentrated in vacuo. The residue was suspended in half-saturated aqueous sodium bicarbonate, washed with ethyl acetate (3×), the combined organic phases were dried (Na2SO4) and concentrated in vacuo. The resulting oil was chromatographed on a Biotage® F40S column (40% ethyl acetate/hexanes) to afford 290 mg of the title compound (I-3d) as a colorless oil.

reactant | [2-(tert-butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethyl]-[2-(4-nitro-phenoxy)-ethyl]-carbamic acid tert-butyl ester | 530 mg | C(C)(C)(C)OC(N(CCOC1=CC=C(C=C1)[N+](=O)[O-])CC(C=1C=NC(=CC1)Cl)O[Si](C)(C)C(C)(C)C)=O | C26H38ClN3O6Si
reactant | ammonium formate | 1.2 g | C(=O)[O-].[NH4+]
solvent | MeOH | 20 mL | CO | CH4O
catalyst | palladium-on-carbon | 530 mg | [Pd] | Pd
product | [2-(4-Amino-phenoxy)-ethyl]-[2-(tert-butyl-dimethyl-silanyloxy)-2-pyridin-3-yl-ethyl]-carbamic acid tert-butyl ester | 290 mg | C(C)(C)(C)OC(N(CC(C=1C=NC=CC1)O[Si](C)(C)C(C)(C)C)CCOC1=CC=C(C=C1)N)=O | C26H41N3O4Si
